US06645997B2
Step E: 7-(3-(2-Propyl-4-(4-chlorophenoxy)phenoxy)propoxy)-2-ethylchromane-2-carboxylic acid
The title compound was prepared from ethyl 7-(3-bromopropoxy)-2-ethylchromane-2-carboxylate and 2-propyl-4-(4-chlorophenoxy)phenol (U.S. Pat. No. 6,008,237) following the procedures described in Example 1, Steps B-C.

reactant | ethyl 7-(3-bromopropoxy)-2-ethylchromane-2-carboxylate | BrCCCOC1=CC=C2CCC(OC2=C1)(C(=O)OCC)CC | C17H23BrO4
reactant | 2-propyl-4-(4-chlorophenoxy)phenol | C(CC)C1=C(C=CC(=C1)OC1=CC=C(C=C1)Cl)O | C15H15ClO2
product | 7-(3-(2-Propyl-4-(4-chlorophenoxy)phenoxy)propoxy)-2-ethylchromane-2-carboxylic acid | C(CC)C1=C(OCCCOC2=CC=C3CCC(OC3=C2)(C(=O)O)CC)C=CC(=C1)OC1=CC=C(C=C1)Cl | C30H33ClO6
